US05142056
Di-(2-phenylethyl)phosphine Oxide
To a solution of 25 mmol of (2-phenyl)ethylmagnesium bromide in 25 ml of diethyl ether was added dropwise with cooling (ice bath) 0.92 ml (7.14 mmol) of diethyl phosphite. The resulting solution was heated at reflux for 2 h, cooled, and treated with aqueous ammonium chloride. The product was extracted with ether, dried over MgSO4, and concentrated in vacuo. Flash chromatography using ethyl acetate gave 1.23 g (64%) of the desired compound (Rf 0.64, 10% methanol in chloroform) as a colorless oil. 1H NMR (CDCl3) δ 2.0-2.2 (m, 4H), 2.85-3.1 (m, 4H), 6.89 (dm, J=455 Hz, 1H), 7.15-7.4 (m, 10H). Mass spectrum (M+H)+ =259.

reactant | (2-phenyl)ethylmagnesium bromide | 25 mmol | C1(=CC=CC=C1)CC[Mg]Br
reactant | diethyl phosphite | 7.14 mmol, 0.92 ml | P(OCC)(OCC)[O-]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
product | Di-(2-phenylethyl)phosphine Oxide | 1.23 g | C1(=CC=CC=C1)CCP(CCC1=CC=CC=C1)=O | C16H19OP
